US08222249B2
A mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt (0.40 g, 1.1 mmol) and CDI (0.21 g, 1.3 mmol) in DMF (5 mL) was stirred at room temperature for 18 h. To the mixture was added 3-(1H-benzoimidazol-2-yl)-4-chloro-phenylamine (0.32 g, 1.3 mmol) at room temperature, and the mixture was stirred at 100° C. for 18 hours. To the mixture was added water (25 mL) and ether (20 mL). The mixture was stirred at room temperature for 2 h. The solvent was decanted. The solid was purified with Prep HPLC to give 1-[3-(1H-benzoimidazol-2-yl)-4-chloro-phenyl]-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (130 mg, 22% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 4.44 min (99.2%); mp: 275-277° C.; 1H NMR (DMSO-d6) δ 1.90-2.10 (m, 1H, CHH), 2.23-2.46 (m, 1H, CHH), 2.54-2.68 (m, 1H, CHH), 2.80-3.02 (m, 1H, CHH), 4.31 (d, J=17.4 Hz, 1H, CHH), 4.37-4.51 (m, 3H, CHH, CH2), 5.11 (dd, J=5.0, 13.3 Hz, 1H, NCH), 6.89 (t, J=5.9 Hz, 1H, NH), 7.23 (d, J=4.5 Hz, 2H, Ar), 7.40-7.76 (m, 7H, Ar), 8.07 (d, J=2.5 Hz, 1H, Ar), 9.02 (s, 1H, NH), 10.98 (s, 1H, NH), 12.64 (br. s., 1H, NH); 13C NMR (DMSO-d6) δ 22.39, 31.10, 42.75, 47.02, 51.48, 111.62, 118.88, 120.11, 120.62, 121.55, 121.83, 122.56, 122.85, 126.85, 129.79, 130.23, 130.35, 134.56, 139.56, 142.29, 143.00, 144.58, 149.12, 154.96, 162.96, 167.86, 170.91, 172.76; LCMS MH=543, 545; Anal. Calcd for C28H23N6O4Cl+3 H2O; C, 56.33; H, 4.90; N, 14.08; Found: C, 56.73; H, 4.67; N, 14.09.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonic acid salt | 1.1 mmol, 0.40 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | CDI | 1.3 mmol, 0.21 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 3-(1H-benzoimidazol-2-yl)-4-chloro-phenylamine | 1.3 mmol, 0.32 g | N1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2Cl)N | C13H10ClN3
reactant | water | 25 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | 20 mL | CCOCC | C4H10O
product | 1-[3-(1H-benzoimidazol-2-yl)-4-chloro-phenyl]-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 130 mg, 22% yield | N1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2Cl)NC(=O)NCC=2C=C1CN(C(C1=CC2)=O)C2C(NC(CC2)=O)=O | C28H23ClN6O4
